### PR TITLE
[Merged by Bors] - feat(AlgebraicGeometry): definition of separated morphisms

### PR DESCRIPTION
**Pull request by chrisflav**
Definition of separated morphisms.

---

Stability properties are in the pipeline but depend on a sequence of PRs on closed immersions.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicGeometry/Morphisms/Separated.lean [hunk 1]
```diff
@@ -0,0 +1,63 @@
...
+namespace AlgebraicGeometry
+
+variable {X Y : Scheme.{u}} (f : X ⟶ Y)
+
+/-- A morphism is separated if the diagonal map is a closed immersion. -/
+@[mk_iff]
+class IsSeparated (f : X ⟶ Y) : Prop where
+  /-- A morphism is separated if the diagonal map is a closed immersion. -/
+  diagonalClosedImmersion : IsClosedImmersion (pullback.diagonal f)
+
```
Comment (erdOne) [inline Mathlib/AlgebraicGeometry/Morphisms/Separated.lean:43]:
```suggestion

attribute [instance] IsSeparated.diagonalClosedImmersion

```

**Comment by erdOne** [comment]
Can you include separated => quasi-separated?

**Comment by chrisflav** [comment]
> Can you include separated => quasi-separated?

Done.

File: Mathlib/AlgebraicGeometry/Morphisms/Separated.lean [hunk 2]
```diff
@@ -60,6 +61,9 @@ theorem respectsIso : MorphismProperty.RespectsIso @IsSeparated := by
   apply MorphismProperty.RespectsIso.diagonal
   exact IsClosedImmersion.respectsIso
 
+instance {X Y : Scheme} (f : X ⟶ Y) [IsSeparated f] : QuasiSeparated f where
```
Comment (erdOne) [inline Mathlib/AlgebraicGeometry/Morphisms/Separated.lean:64]:
```suggestion
instance (priority := 900) {X Y : Scheme} (f : X ⟶ Y) [IsSeparated f] : QuasiSeparated f where
```

Comment (chrisflav) [reply Mathlib/AlgebraicGeometry/Morphisms/Separated.lean]: Changed. I am seeing this in a lot of places: why do we need this or why is it advisable?

Comment (erdOne) [reply Mathlib/AlgebraicGeometry/Morphisms/Separated.lean]: Because lean finds type classes in reverse. It sees that the goal is `QuasiSeparated f` and it lists all instances with goals looking like that and tries it one by one. Usually `f` is some complex term whose structure gives instances (for example `QuasiSeparated f -> QuasiSeparated (pullback f g)`), and instances with generic goals (i.e. `f` is a variable) should be tried last.

Comment (erdOne) [reply Mathlib/AlgebraicGeometry/Morphisms/Separated.lean]: There's a note [lower instance priority] for this.

**Comment by erdOne** [comment]
Thanks!
maintainer merge

**Comment by chrisflav** [comment]
Thanks for the speedy review!

File: Mathlib/AlgebraicGeometry/Morphisms/Separated.lean [hunk 3]
```diff
@@ -0,0 +1,69 @@
...
+
+namespace AlgebraicGeometry
+
+variable {X Y : Scheme.{u}} (f : X ⟶ Y)
+
+/-- A morphism is separated if the diagonal map is a closed immersion. -/
+@[mk_iff]
+class IsSeparated (f : X ⟶ Y) : Prop where
+  /-- A morphism is separated if the diagonal map is a closed immersion. -/
+  diagonalClosedImmersion : IsClosedImmersion (pullback.diagonal f)
```
Comment (joelriou) [inline Mathlib/AlgebraicGeometry/Morphisms/Separated.lean:43]: Untested, but this should make some definitions below more automatic:
```suggestion
  diagonalClosedImmersion : IsClosedImmersion (pullback.diagonal f) := by infer_instance
```

Comment (chrisflav) [reply Mathlib/AlgebraicGeometry/Morphisms/Separated.lean]: Done

File: Mathlib/AlgebraicGeometry/Morphisms/Separated.lean [hunk 4]
```diff
@@ -0,0 +1,67 @@
...
+
+attribute [instance] diagonalClosedImmersion
+
+theorem isSeparated_eq_diagonal_isClosedImmersion :
+    @IsSeparated = MorphismProperty.diagonal @IsClosedImmersion := by
+  ext
+  exact isSeparated_iff _
+
+/-- Monomorphisms are separated. -/
+instance (priority := 900) separatedOfMono {X Y : Scheme} (f : X ⟶ Y) [Mono f] :
```
Comment (joelriou) [inline Mathlib/AlgebraicGeometry/Morphisms/Separated.lean:55]:
```suggestion
instance (priority := 900) separated_of_mono {X Y : Scheme} (f : X ⟶ Y) [Mono f] :
```

File: Mathlib/AlgebraicGeometry/Morphisms/Separated.lean [hunk 5]
```diff
@@ -0,0 +1,67 @@
...
+
+open scoped AlgebraicGeometry
+
+namespace AlgebraicGeometry
+
+variable {X Y : Scheme.{u}} (f : X ⟶ Y)
+
+/-- A morphism is separated if the diagonal map is a closed immersion. -/
+@[mk_iff]
+class IsSeparated (f : X ⟶ Y) : Prop where
```
Comment (joelriou) [inline Mathlib/AlgebraicGeometry/Morphisms/Separated.lean:41]:
```suggestion
class IsSeparated : Prop where
```

File: Mathlib/AlgebraicGeometry/Morphisms/Separated.lean [hunk 6]
```diff
@@ -0,0 +1,67 @@
...
+/-- Monomorphisms are separated. -/
+instance (priority := 900) separatedOfMono {X Y : Scheme} (f : X ⟶ Y) [Mono f] :
+    IsSeparated f where
+
+theorem respectsIso : MorphismProperty.RespectsIso @IsSeparated := by
+  rw [isSeparated_eq_diagonal_isClosedImmersion]
+  apply MorphismProperty.RespectsIso.diagonal
+  exact IsClosedImmersion.respectsIso
+
+instance (priority := 900) {X Y : Scheme} (f : X ⟶ Y) [IsSeparated f] : QuasiSeparated f where
```
Comment (joelriou) [inline Mathlib/AlgebraicGeometry/Morphisms/Separated.lean:63]:
```suggestion
instance (priority := 900) [IsSeparated f] : QuasiSeparated f where
```

**Comment by joelriou** [comment]
Thanks!

bors merge
